US08003787B2
Intermediate 14: Preparation of 5-(6-bromoquinazolin-4-ylamino)-4-fluoro-2-methylphenol
5.0 g (19.9 mmol) of N′-(4-bromo-2-cyanophenyl)-N,N-dimethylformamidine and 3.09 g (21.9 mmol) of 5-amino-4-fluoro-2-methylphenol are suspended in 25 ml of acetic acid and heated under reflux for 1 h. The solid obtained after cooling is filtered off and washed with hexane. 4.02 g (58%) of the desired product are obtained.

reactant | N′-(4-bromo-2-cyanophenyl)-N,N-dimethylformamidine | 19.9 mmol, 5.0 g | BrC1=CC(=C(C=C1)N=CN(C)C)C#N | C10H10BrN3
reactant | 5-amino-4-fluoro-2-methylphenol | 21.9 mmol, 3.09 g | NC=1C(=CC(=C(C1)O)C)F | C7H8FNO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-(6-bromoquinazolin-4-ylamino)-4-fluoro-2-methylphenol | 4.02 g, 58% | BrC=1C=C2C(=NC=NC2=CC1)NC=1C(=CC(=C(C1)O)C)F | C15H11BrFN3O
